US05646308
A mixture of 200 mg of N-methyl-6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydropyran]-4-carbothioamide, 192 mg of 2-chloro-1-methylpyridinium iodide, 209 μl of triethylamine and 5 ml of dried tetrahydrofuran was refluxed with heating for 2 hours and further cooled to room temperature. 42 mg of cyanamide and 30 mg of sodium hydride (60%) were added therein and the reaction mixture was refluxed with heating for 2 hours. Ice water was added therein and the resultant mixture was extracted with methylene chloride. An organic layer was washed with water and dried, and the solvent was distilled. The obtained residue was purified according to silica gel column chromatography (developing solution, CH2Cl2) and recrystallized by a mixed solvent of ethyl acetate and hexane to obtain 14 mg of N-cyano-N'-methyl-6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydropyran]-4-amidine with a melting point of 293°-294° C.

reactant | N-methyl-6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydropyran]-4-carbothioamide | 200 mg | CNC(=S)C1=CC2(CCOCC2)OC2=C1C=C(C=C2)[N+](=O)[O-] | C15H16N2O4S
reactant | 2-chloro-1-methylpyridinium iodide | 192 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | cyanamide | 42 mg | N#CN | CH2N2
reactant | sodium hydride | 30 mg | [H-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 209 μl | C(C)N(CC)CC | C6H15N
product | N-cyano-N'-methyl-6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydropyran]-4-amidine | 14 mg | C(#N)NC(=NC)C1=CC2(CCOCC2)OC2=C1C=C(C=C2)[N+](=O)[O-] | C16H16N4O4
